US05217976
Methyl 4-[(5,7-diethyl-2-oxo-4-phenylthio-1,2-dihydro-1,6-naphthyridin-1-yl)methyl]benzoate (200 mg) was dissolved in a mixture of dioxan (4 ml), water (1 ml) and concentrated hydrochloric acid (1 ml) and the mixture was heated at reflux for 4 hours. Volatile material was then removed by evaporation and toluene was added to the residue. Volatile material was again removed by evaporation. The solid residue was recrystallised from ethanol/ether to give 4-[(5,7-diethyl-2-oxo-4-phenylthio-1,2-dihydro-1,6-naphthyridin-1-yl)methyl]benzoic acid (120 mg) m.p. 260°-262° C.; NMR (d6 -DMSO): 1.19(t, 3H), 1.51(t, 3H), 2.98(q, 2H), 3.72(q, 2H), 5.56(s, 2H), 5.91(s, 1H), 7.35(d, 2H), 7.47(s, 1H), 7.6-7.8(complex m, 5H), 7.88(d, 2H), mass spectrum (CI, ammonia): 445(M+H)+ ; microanalysis, found: C, 64.5; H, 5.4; N, 5.9%; C26H24N2O3S requires: C, 64.9; H, 5.2; N, 5.8%.

reactant | Methyl 4-[(5,7-diethyl-2-oxo-4-phenylthio-1,2-dihydro-1,6-naphthyridin-1-yl)methyl]benzoate | 200 mg | C(C)C1=C2C(=CC(N(C2=CC(=N1)CC)CC1=CC=C(C(=O)OC)C=C1)=O)SC1=CC=CC=C1 | C27H26N2O3S
solvent | dioxan | 4 ml | O1CCOCC1 | C4H8O2
solvent | water | 1 ml | O | H2O
solvent | hydrochloric acid | 1 ml | Cl | ClH
product | 4-[(5,7-diethyl-2-oxo-4-phenylthio-1,2-dihydro-1,6-naphthyridin-1-yl)methyl]benzoic acid | 120 mg | C(C)C1=C2C(=CC(N(C2=CC(=N1)CC)CC1=CC=C(C(=O)O)C=C1)=O)SC1=CC=CC=C1 | C26H24N2O3S
